US04857643
A solution of 2-(o-methoxyphenoxymethyl)thiazolidine (15 g) in acetone (75 ml), cooled at 10° C., under stirring is added with triethylamine (10.5 ml) and dropwise with a solution of α-chloroacetylchloride (5.8 ml) in acetone (15 ml). After 2 hours the mixture is added with potassium thioacetate (35.4 g) and stirring is continued for 2 hours, the mixture is poured in ice and water (250 ml) and the precipitate is filtered and crystallized from EtOH to give 2-(o-methoxyphenoxy)methyl-3-acetylthioacetylthiazolidine (19.8 g, 87% yield) m.p. 89°-91° C.

reactant | 2-(o-methoxyphenoxymethyl)thiazolidine | 15 g | COC1=C(OCC2SCCN2)C=CC=C1 | C11H15NO2S
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | α-chloroacetylchloride | 5.8 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium thioacetate | 35.4 g | C(C)(=S)[O-].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 2-(o-methoxyphenoxy)methyl-3-acetylthioacetylthiazolidine | 19.8 g, 87% yield | COC1=C(OCC2SCCN2C(CC(C)=O)=S)C=CC=C1 | C15H19NO3S2
